Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
latex / Sulfa (Sulfonamide Antibiotics) / Vicodin / NSAIDS 
(Non-Steroidal Anti-Inflammatory Drug)
 
Attending: ___.
 
Chief Complaint:
amnesia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ left-handed woman with a past medical 
history of one lifetime grand mal seizure, discoid lupus, 
depression, anxiety, migraine, psoriasis who presents with 
significant retrograde amnesia. History is obtained from patient 
and her sister.  Patient initially was symptomatic at home in 
front of her son but unable to contact son at this time.

Patient was diagnosed with shingles in the left chest and arm 3 
weeks ago and has been out of work since then.  Per PCP notes, 
patient was already on Valtrex for anogenital herpes but had 
stopped.  She declined gabapentin or Lyrica for postherpetic 
neuralgia.  Sister notes that patient has been very fatigued in
the past few weeks often sleeping 14 to 17 hours/day.  Per 
outpatient notes, patient seems to have been experiencing more 
fatigue past few months possibly attributed to connective tissue 
disease though her diagnosis of discoid lupus is based on 
positive ___ and Raynaud's in her hands.

Last night ___, she told her sister she had a headache..  It 
was dull and pulsatile around her vertex.  She denied nausea 
when she felt exhausted.  Patient does recall having a restless 
night with vivid nightmares and frequent awakenings. 

However, she does not remember anything else from yesterday.  
Per patient, her son told her today that last night she kept 
asking "what is wrong with me" and was very worried about her 
shingles which she thought was new.  Per ED note, she approached 
her son multiple times last night asking where she was.

This morning, patient woke up at 10 AM and was very distressed 
because she thought she should be at work by this time.  She 
also thought that she had shingles which she thought was needed. 
 She got out of bed and spoke with her son.  She told her son 
"Something is wrong with me". ser son reassured her that she has 
had shingles for 3 weeks and arrangements have been made for her
to stay home from work for the past 3 weeks.  He told her to go 
back to sleep.  However, she was too anxious and worried because 
she realized she could not remember anything.  She called her 
sister to explain what happened.  Her sister suggested calling 
an ambulance but patient refused.  So the sister came to drive 
her to the hospital.

Patient also felt very weak and shaky/jittery.  She denies 
problems walking and she was able to walk without assistance 
cautiously down the stairs and to her sister's car.  

Per patient, she cannot remember anything except that she 
remembers that she had a restless night with vivid nightmares 
and frequent awakenings.  She does not remember anything else 
that happened last night but she remembers everything that 
happened this morning. She is otherwise unable to tell us what 
her last m
memory is. This morning she did not know whether ___ past 
year.  She does
not remember what she did on ___.  However her sister 
reminded her and she thinks she remembers that she did not feel 
well and did not go to the usual ___ celebration. 

She does not remember what she did for ___.  She thought 
she was at her sister's house but was wrong. Per sister, she 
usually goes to ___'s for ___ but this year the sister 
was out of town in ___. Patient then guesses that she 
probably went to her daughter's house, but acknowledges it is
just a guess. She does not remember what she did for New Year's 
which is also her birthday.  She says she does not usually 
celebrate. She remembers moving into her house ___ years ago. Her 
mother passed away this ___  due to Alzheimer's. Patient 
remembers this time clearly including all the arrangements and 
events at that time. She claims that she remembers some 
fragmented memories from work but is unable to be sure when it 
was from.

This episode reminds her of her one lifetime grand mal seizure.  
This occurred ___ years ago and was also preceded by restless, 
vivid dreams and exhaustion.  At that time she felt like she 
would faint so she asked her niece to to help her to bed.  Prior 
to the seizure, she remembers hearing a low hum which increased
in frequency to a high pitch.  In the bed, patient had a 
witnessed generalized tonic-clonic seizure.  She denies a fall 
or head strike as she was in bed.  No urinary or fecal 
incontinence or tongue biting. Work-up for the seizure was 
negative.  She was started on lamictal.  She stopped after ___ 
year even though her doctor thought it should be continued.  
However patient decided to stop
and has not had any seizure-like activity for the past ___ years. 
 She reports having had 2 EEGs which were normal to her 
knowledge.

She denies any recent illness or symptoms except for shingles 
and fatigue.  Denies recent travel. 
 
Past Medical History:
Grand mal seizure x1
MVP
discoid lupus (dx ___ years ago, no treatment)
psoriasis
shingles
depression
anxiety
Hepatitis A
Essential Tremor
HSV (herpes simplex virus) anogenital infection
Hyperlipidemia
Insomnia
Migraine
Thyroid cyst
Vitamin D deficiency
C-section x2, TAH, pilonidal cys
 
Social History:
___
Family History:
Father - heart problems CABG x3, renal cancer went to lung and
brain and CLL. 
Mother -  ___ disease, Alzheimer's dementia
 
Physical Exam:
24 HR Data (last updated ___ @ 821)
    Temp: 98.0 (Tm 98.6), BP: 131/63 (131-157/63-86), HR: 83
(81-93), RR: 20 (___), O2 sat: 96% (94-97), O2 delivery: RA    


Physical Exam:
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: Healing herpetic lesions on L neck/chest/arm, no open
lesions. Scaly plaques on L leg. 
 
Neurologic:
-Mental Status: Alert, oriented to name, ___, and date.
Able to relate history without difficulty but does not remember
much prior to the day of presentation. Attentive, able to name
___ backward without difficulty. Language is fluent with intact
repetition and comprehension. Normal prosody. There were no
paraphasic errors. Able to name both high and low frequency
objects. No dysarthria. Able to follow both midline and
appendicular commands. Able to register 3 objects but unable to
recall ___ at 5 minutes, although she was distracted in the
interim by discussion of test results and exam. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 4 to 3mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. 

-Motor: Normal bulk and tone throughout. No pronator drift. No
asterixis noted. b/l mild rest tremor which is baseline for
patient
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: No deficits to light touch, pinprick, temperature, 
vibration, or proprioception throughout. No extinction to DSS.

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     2      2      2     1
R   2     2      2      2     1 
Plantar response was flexor bilaterally.

-Coordination: No dysmetria on FNF bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing. 
 
Pertinent Results:
___ 06:08PM BLOOD WBC-10.2* RBC-4.14 Hgb-12.8 Hct-40.3 
MCV-97 MCH-30.9 MCHC-31.8* RDW-13.8 RDWSD-48.4* Plt ___
___ 06:08PM BLOOD Neuts-67.0 ___ Monos-7.1 Eos-1.3 
Baso-0.4 Im ___ AbsNeut-6.80* AbsLymp-2.43 AbsMono-0.72 
AbsEos-0.13 AbsBaso-0.04
___ 06:08PM BLOOD ___ PTT-27.6 ___
___ 04:10PM BLOOD Lupus-NOTDETECTE dRVVT-S-1.10 SCT-S-0.78
___ 06:08PM BLOOD Glucose-142* UreaN-13 Creat-0.7 Na-141 
K-4.8 Cl-102 HCO3-21* AnGap-18
___ 06:08PM BLOOD ALT-17 AST-21 AlkPhos-88 TotBili-0.2
___ 06:10AM BLOOD CK(CPK)-45
___ 06:08PM BLOOD Lipase-34
___ 10:06PM BLOOD cTropnT-<0.01
___ 06:10AM BLOOD CK-MB-1 cTropnT-<0.01
___ 06:08PM BLOOD Albumin-4.4
___ 06:10AM BLOOD Calcium-9.0 Phos-4.0 Mg-2.0 Cholest-186
___ 06:10AM BLOOD %HbA1c-6.1* eAG-128*
___ 06:10AM BLOOD Triglyc-74 HDL-53 CHOL/HD-3.5 LDLcalc-118
___ 06:10AM BLOOD TSH-1.5
___ 04:10PM BLOOD b2micro-1.6
___ 06:08PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 06:15PM BLOOD ___ pO2-39* pCO2-40 pH-7.39 
calTCO2-25 Base XS-0 Comment-GREEN TOP 
___ 06:15PM BLOOD Lactate-3.1*
___ 07:57PM BLOOD Lactate-2.5*
___ 10:11PM BLOOD Lactate-1.6

___ 07:43PM URINE Color-Straw Appear-Hazy* Sp ___
___:43PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 07:43PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

___ 02:30AM CEREBROSPINAL FLUID (CSF) TNC-3 RBC-0 Polys-0 
___ ___ 02:30AM CEREBROSPINAL FLUID (CSF) TotProt-37 Glucose-63
___ 02:30AM CEREBROSPINAL FLUID (CSF) HSV PCR- negative 

___ 04:10PM BLOOD CARDIOLIPIN ANTIBODIES (IGG, IGM)-PND

___ EKG NSR w/o acute ST/T wave abnormalities

___ EEG
IMPRESSION: This is a normal continuous video-EEG monitoring 
study in the
awake and asleep states. There are no pushbutton events. No 
focal
abnormalities, epileptiform discharges, or electrographic 
seizures are seen.

___ CXR
IMPRESSION: 
No evidence of acute cardiopulmonary abnormality.

___ CTA head/neck
IMPRESSION: 
1. No evidence for acute intracranial abnormalities.  MRI would 
be more
sensitive for an acute infarction, if clinically warranted.
2. Near complete opacification of the right sphenoid sinus with 
fluid,
aerosolized secretions, and mucosal thickening.  Please 
correlate clinically whether the patient has symptoms of active 
sinusitis.
3. Normal CTA of the head and neck.
4. Right thyroid nodules measuring up to 7 mm.

___ MRI head w/ & w/o contrast
IMPRESSION:
1. Acute infarct involving a punctate area of the left 
hippocampus.
2. Findings consistent with sinus disease.

___ TTE
IMPRESSION: No definite structural cardiac source of embolism 
identified. Preserved biventricular systolic function. No 
clinically significant valvular disease. Normal pulmonary 
pressure. If ___ performed to assess for possible source of 
embolism could consider repeat assessment of interatrial septum 
with saline contrast with maneuvers.

 
Brief Hospital Course:
Ms. ___ is a ___ left-handed woman with a past medical 
history of one lifetime grand mal seizure, discoid lupus, 
depression, anxiety, migraine, psoriasis who presents with 
significant retrograde amnesia. Exam on presentation otherwise 
nonfocal with no other abnormalities. She had an MRI of the 
brain which revealed a small left hippocampal stroke. We 
performed a CTA head and neck which did not show severe 
atherosclerosis. TTE did not reveal LV embolus. Telemetry has 
been without abnormal rhythms. We have initiated 
hypercoagulability work-up. She will need two weeks of cardiac 
monitoring as an outpatient, which she will need to discuss with 
her PCP to arrange. We have started her on aspirin 81 mg daily 
and atorvastatin 40 mg daily for secondary stroke prevention. 
She had 48 hours of EEG which were normal. She had bland CSF 
studies.

She has evidence of a recent shingles infection. She was 
complaining of parasthesias in the affected area. We have 
prescribed her a two week course of pregabalin. She can request 
additional medication from her primary physician if needed. We 
have not made any other changes in her home medications. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Venlafaxine XR 75 mg PO DAILY 
2. ARIPiprazole 7 mg PO DAILY 
3. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*12 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*6 
3.  Pregabalin 75 mg PO BID 
RX *pregabalin [Lyrica] 75 mg 1 capsule(s) by mouth twice a day 
Disp #*28 Capsule Refills:*0 
4.  ARIPiprazole 7 mg PO DAILY  
5.  Omeprazole 20 mg PO DAILY  
6.  Venlafaxine XR 75 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left hippocampal stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___ 

___ presented to the hospital because of confusion.  We 
performed imaging of your brain and ___ were found to have a 
very small stroke in a region on the left side of your brain 
that is important in memory.  We think that ___ will recover 
your memory functions over the next few weeks.  We have started 
___ on aspirin 81 mg daily and atorvastatin 40 mg daily to help 
reduce your risk of having another stroke.  ___ will need to ask 
your primary care physician for ___ referral to follow up with a 
neurologist. 

We have prescribed ___ a two week course of pregabalin for 
management of the pain ___ are having because of your recent 
shingles infection.  If ___ need more of this medication beyond 
this please reach out to your primary care provider. 

Thank ___ for allowing us to care for ___. 
___ Neurology 

 
Followup Instructions:
___